US08304419B2
Step H: 3-Bromo-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-6-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxamide
HATU (0.061 g, 0.161 mmol) and DIPEA (0.028 mL, 0.161 mmol) were added to a solution of 3-bromo-6-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxylic acid (0.048 g, 0.161 mmol) and 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.050 g, 0.161 mmol) in DMF (2 mL). This solution was stirred overnight at room temperature. The mixture was partitioned between water and EtOAc, followed by washing of the organic layer with a 15% solution of Na2CO3. The organic layer was separated and dried over MgSO4. The EtOAc was evaporated to yield a residue which was triturated in acetone to afford the title compound (0.059 g, 59%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.78 (s, 1H), 8.37 (t, 1H), 7.80 (s, 1H), 7.48-7.54 (m, 2H), 7.40-7.47 (m, 2H), 7.35 (d, 1H), 6.87 (s, 1H), 6.82 (d, 1H), 4.86 (t, 1H), 4.59 (d, 2H), 3.97 (t, 2H), 3.72 (q, 2H). MS m/z 592 (M+1).

reactant | HATU | 0.161 mmol, 0.061 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.161 mmol, 0.028 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-bromo-6-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxylic acid | 0.161 mmol, 0.048 g | BrC1=C(NC2=CC(=CC=C12)OCCO)C(=O)O | C11H10BrNO4
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.161 mmol, 0.050 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-6-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxamide | 0.059 g, 59% | BrC1=C(NC2=CC(=CC=C12)OCCO)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C25H17BrCl2FN3O4
